US05852019
(1) 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(4-hydroxyphenyl)-1-piperazinyl]-1-propanone hydrochloride
2.0 g of 1-(2-pyrimidinyl)-4-acetyl-5-methylpyrazole was dissolved in 50 ml of ethanol. After adding 2.6 g of 1-(4-hydroxyphenyl)piperazine, 10 ml of a 1N hydrochloric acid/ethanol solution and 1.6 g of paraformaldehyde, the mixture was heated under reflux for 24 hours. Further, 3.2 g of paraformaldehyde was added and the resulting mixture was heated under reflux for additional 48 hours. Then the reaction mixture was concentrated and neutralized by adding a saturated aqueous solution of sodium hydrogencarbonate. After extracting with chloroform, the extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue thus obtained was purified by silica gel column chromatography (chloroform:methanol=20:1), converted into hydrochloride by adding a 1N hydrochloric acid/ethanol solution and then recrystallized from ethanol. Thus 946 mg of the title compound was obtained in the form of a pale brown powder.

reactant | 1-(2-pyrimidinyl)-4-acetyl-5-methylpyrazole | 2.0 g | N1=C(N=CC=C1)N1N=CC(=C1C)C(C)=O | C10H10N4O
reactant | 1-(4-hydroxyphenyl)piperazine | 2.6 g | OC1=CC=C(C=C1)N1CCNCC1 | C10H14N2O
reactant | hydrochloric acid ethanol | 1N | Cl.C(C)O
reactant | paraformaldehyde | 1.6 g | C=O | CH2O
reactant | paraformaldehyde | 3.2 g | C=O | CH2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(4-hydroxyphenyl)-1-piperazinyl]-1-propanone hydrochloride | 946 mg | Cl.CC1=C(C=NN1C1=NC=CC=N1)C(CCN1CCN(CC1)C1=CC=C(C=C1)O)=O | InChI=1S/C21H24N6O2.ClH/c1-16-19(15-24-27(16)21-22-8-2-9-23-21)20(29)7-10-25-11-13-26(14-12-25)17-3-5-18(28)6-4-17;/h2-6,8-9,15,28H,7,10-14H2,1H3;1H
